US04855482
To sodium salt of 2-hydroxynaphthalene-6-carboxylic acid methyl ester (44.8g) N,N-dimethylformamide (200 ml) was added with stirring at room temperature. Then a solution of m-xylylenedichloride (17.5 g, 0.1 mol) in N,N-dimethylformamide was added in drops thereto in 10 minutes. The reaction mixture was stirred at 105° C. for 4 hours and then cooled to give a precipitate. The precipitate was rinsed with N,N-dimethylformamide, treated with hot water at 80° C. for 30 minutes with stirring, and then with methanol at 60° C. for 30 minutes with stirring; cooled, filtered and dried to give a white crystals of 1,3-bis(6-carbomethoxy-2-naphthoxymethyl)benzene (39.7 g, yield 77.8%): m.p. 177.3°-178.0° C.

reactant | sodium | [Na] | Na
reactant | 2-hydroxynaphthalene-6-carboxylic acid methyl ester | 200 ml, 44.8g | COC(=O)C=1C=C2C=CC(=CC2=CC1)O | C12H10O3
reactant | m-xylylenedichloride | 0.1 mol, 17.5 g | C1(=CC(=CC=C1)CCl)CCl | C8H8Cl2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1,3-bis(6-carbomethoxy-2-naphthoxymethyl)benzene | 39.7 g, yield 77.8% | C(=O)(OC)C=1C=C2C=CC(=CC2=CC1)OCC1=CC(=CC=C1)COC1=CC2=CC=C(C=C2C=C1)C(=O)OC | C32H26O6
